US04065477
reacting one mole of said 2-methyl-3-nitrobenzoyl chloride in refluxing benzene in the presence of two moles of aluminum chloride for a period of 2-3 hours to form 2-methyl-3-nitrobenzophenone,

reactant | 2-methyl-3-nitrobenzoyl chloride | one mole | CC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C8H6ClNO3
reactant | aluminum chloride | two moles | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-methyl-3-nitrobenzophenone | CC1=C(C(=O)C2=CC=CC=C2)C=CC=C1[N+](=O)[O-] | C14H11NO3
